US04443447
A mixture of 0.7 g (2.1 mmole) of 8-(4-aminophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 5 ml of acetic acid and 2.5 ml of acetic anhydride was heated at its reflux temperature until solid was observed to precipitate. The mixture was diluted with 10 ml of water, stirred and cooled. The product was separated by filtration to provide 8-(4-acetamidophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate, m.p. 168°-170° C. Analysis: Calculated for C22H20N2O4.0.75H2O: %C, 67.8; %H, 5.6; %N, 7.2; Found: %C, 67.9; %H, 5.3; %N, 7.4. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 8-(4-aminophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.1 mmole, 0.7 g | NC1=CC=C(C=C1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C20H18N2O3
reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 8-(4-acetamidophenyl)-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrate | O.C(C)(=O)NC1=CC=C(C=C1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | InChI=1S/C22H20N2O4.H2O/c1-12-3-8-17-16(14-4-6-15(7-5-14)23-13(2)25)9-10-18-20(17)24(12)11-19(21(18)26)22(27)28;/h4-7,9-12H,3,8H2,1-2H3,(H,23,25)(H,27,28);1H2
